US07652049B2
A solution of triphenylphosphine (102.8 mg, 0.392 mmol) in dry CH2Cl2 (2 mL) was added by cannula to a stirred solution of carbon tetrabromide (130 mg, 0.392 mmol) and 4-fluoro-2′-(hydroxymethyl)-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol (58.5 mg, 0.163 mmol) in dry CH2Cl2 (2 mL) at 0° C. under N2 and the reaction was stirred at room temperature overnight. The reaction mixture was concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-40% EtOAc in hexanes gradient) to afford 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol. Rf=0.55 (20% EtOAc in hexanes). 1H NMR (600 MHz, CDCl3) δ 7.84 (s, 1H), 7.61 (d, J=7.9 Hz, 1H), 7.42 (d, J=8.0 Hz, 1H), 6.69 (d, J=7.8 Hz, 1H), 5.59 (s, 1H), 4.50 (d, J=9.6 Hz, 1H), 4.39 (d, J=9.7 Hz, 1H), 3.47 (s, 3H), 3.29-3.23 (m, 1H), 1.27 (d, J=6.9 Hz, 6H).

reactant | triphenylphosphine | 0.392 mmol, 102.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 0.392 mmol, 130 mg | C(Br)(Br)(Br)Br | CBr4
reactant | 4-fluoro-2′-(hydroxymethyl)-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol | 0.163 mmol, 58.5 mg | FC1=C(C(=C(C=C1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)CO)OC)O | C18H18F4O3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl-3-ol | BrCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=C(C(=C1)C(C)C)F)O)OC | C18H17BrF4O2
